US08633318B2
Polymer-bound triphenylphosphine (670 mg, 3 mmol/g, 2.00 mmol) was suspended in DCM (5 mL) and stirred for 30 min. DIAD (396 μL, 2.01 mmol), 4-hydroxy-N-methyl-piperidine (232 mg, 2.01 mmol) and Intermediate 1 (185 mg, 0.81 mmol) were added. The reaction mixture was stirred for 18 h. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by reverse phase HPLC (YMC ODS-A 100×20 mm, 5 μm, 25 mL/min, gradient 60% to 100% (over 7 min) then 100% (3 min) MeOH in 10% MeOH/water), then by reverse phase HPLC (YMC ODS-A 150×20 mm, 5 μm, 15 mL/min, gradient 0% to 40% (over 12 min) then 100% (3 min) MeOH in water (1% formic acid)). The residue was de-salted using K2CO3 in DCM to give 3-(4-chlorophenyl)-1-(1-methylpiperidin-4-yl)-1H-pyrazolo[4,3-c]pyridine (31 mg, 11.8%) as a white solid.

reactant | triphenylphosphine | 2.00 mmol, 670 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 2.01 mmol, 396 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 4-hydroxy-N-methyl-piperidine | 2.01 mmol, 232 mg | OC1CCN(CC1)C | C6H13NO
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-chlorophenyl)-1-(1-methylpiperidin-4-yl)-1H-pyrazolo[4,3-c]pyridine | 31 mg, 11.8% | ClC1=CC=C(C=C1)C1=NN(C2=C1C=NC=C2)C2CCN(CC2)C | C18H19ClN4
